US04857527
To a solution of ethyl 4-(3-nitrophenyl)-6-phenyl-3-pyridazinecarboxylate (1 g) in methylene chloride (10 ml) was added ammonia-methanol solution (60 ml) which was prepared by bubbling an ammonia gas (14 g) into methanol (120 ml), and the mixture was stirred for 24 hours at ambient temperature. After evaporating the solvent, the residue was recrystallized from methanol to give 4-(3-nitrophenyl)-6-phenyl-3-pyridazinecarboxamide (0.78 g).

reactant | ethyl 4-(3-nitrophenyl)-6-phenyl-3-pyridazinecarboxylate | 1 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=C(N=NC(=C1)C1=CC=CC=C1)C(=O)OCC | C19H15N3O4
reactant | ammonia methanol | 60 ml | N.CO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(3-nitrophenyl)-6-phenyl-3-pyridazinecarboxamide | 0.78 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=C(N=NC(=C1)C1=CC=CC=C1)C(=O)N | C17H12N4O3
